US03991066
EXAMPLE 4: 1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine acetamide
1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine and chloroacetamide are reacted in accordance with the process described in Example 1. Reaction period four hours at 60°. M.P. of the title compound 167°-168° from acetone.

reactant | 1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine | CC=1C2=CC=CC=C2C2CNCCC21 | C13H15N
reactant | chloroacetamide | ClCC(=O)N | C2H4ClNO
product | 1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine acetamide | CC=1C2=CC=CC=C2C2C(NCCC21)CC(=O)N | C15H18N2O
